US04123532
IV. Preparation of 9-chloro-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester
Seven and one-half g (0.039 mole) of 3-diazo-5-chloro-oxindole and 8.4 g (0.086 mole) of ethyl propiolate are dissolved in 400 ml of xylene and heated to reflux (under nitrogen) for 1.5 hours, during which time a copious amount of solid forms. The reaction mixture is cooled to room temperature, filtered, washed with ether and dried to give 10 g (88% yield) of TLC pure material. This is crystallized from chloroform/methanol (4:1) and then from methanol to give 8.1 g of analytically pure compound.

reactant | 3-diazo-5-chloro-oxindole | 0.039 mole | [N+](=[N-])=C1C(NC2=CC=C(C=C12)Cl)=O | C8H4ClN3O
reactant | ethyl propiolate | 0.086 mole, 8.4 g | C(C#C)(=O)OCC | C5H6O2
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 9-chloro-5,6-dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester | 88% yield | ClC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)C(=O)OCC | C13H10ClN3O3
